### PR TITLE
[Merged by Bors] - refactor(CategoryTheory/Monoidal/Braided): use monoidalComp in the proofs

### PR DESCRIPTION
**Pull request by yuma-mizuno**
- [x] depends on: #10061

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 1]
```diff
@@ -200,82 +199,85 @@ variable (C : Type u₁) [Category.{v₁} C] [MonoidalCategory C] [BraidedCatego
...
-    _ = (ρ_ X).hom ⊗ 𝟙 (𝟙_ C) := by rw [triangle]
+    _ = (α_ _ _ _).hom ≫ (_ ◁ (λ_ _).hom) ≫ (β_ _ _).hom ≫ (β_ X _).inv :=
+      by (slice_lhs 2 3 => rw [← braiding_naturality_right]); simp only [assoc]
+    _ = (α_ _ _ _).hom ≫ (_ ◁ (λ_ _).hom) := by rw [Iso.hom_inv_id, comp_id]
+    _ = (ρ_ X).hom ▷ 𝟙_ C := by rw [triangle']
 
 #align category_theory.braiding_left_unitor_aux₂ CategoryTheory.braiding_leftUnitor_aux₂
 
-@[simp]
 theorem braiding_leftUnitor (X : C) : (β_ X (𝟙_ C)).hom ≫ (λ_ X).hom = (ρ_ X).hom := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:228]: We could add the `reassoc` attribute here.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 2]
```diff
@@ -200,82 +199,85 @@ variable (C : Type u₁) [Category.{v₁} C] [MonoidalCategory C] [BraidedCatego
...
+  simp [← braiding_rightUnitor]
+
 theorem leftUnitor_inv_braiding (X : C) : (λ_ X).inv ≫ (β_ (𝟙_ C) X).hom = (ρ_ X).inv := by
-  apply (cancel_mono (ρ_ X).hom).1
-  simp only [assoc, braiding_rightUnitor, Iso.inv_hom_id]
+  simp
 #align category_theory.left_unitor_inv_braiding CategoryTheory.leftUnitor_inv_braiding
 
-@[simp]
 theorem rightUnitor_inv_braiding (X : C) : (ρ_ X).inv ≫ (β_ X (𝟙_ C)).hom = (λ_ X).inv := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:272]: These lemmas `braiding_rightUnitor`, `braiding_tensorUnit_left`, `leftUnitor_inv_braiding` and `rightUnitor_inv_braiding` should have the `reassoc` attr, as well as `braiding_tensorUnit_right` below.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 3]
```diff
@@ -448,30 +450,19 @@ end CommMonoid
...
-  by dsimp [tensor_μ]; simp
-#align category_theory.tensor_μ_def₁ CategoryTheory.tensor_μ_def₁
-
-theorem tensor_μ_def₂ (X₁ X₂ Y₁ Y₂ : C) :
-    (𝟙 X₁ ⊗ (α_ X₂ Y₁ Y₂).hom) ≫ (α_ X₁ X₂ (Y₁ ⊗ Y₂)).inv ≫ tensor_μ C (X₁, X₂) (Y₁, Y₂) =
-      (𝟙 X₁ ⊗ (β_ X₂ Y₁).hom ⊗ 𝟙 Y₂) ≫ (𝟙 X₁ ⊗ (α_ Y₁ X₂ Y₂).hom) ≫ (α_ X₁ Y₁ (X₂ ⊗ Y₂)).inv :=
-  by dsimp [tensor_μ]; simp
-#align category_theory.tensor_μ_def₂ CategoryTheory.tensor_μ_def₂
-
 theorem tensor_μ_natural {X₁ X₂ Y₁ Y₂ U₁ U₂ V₁ V₂ : C} (f₁ : X₁ ⟶ Y₁) (f₂ : X₂ ⟶ Y₂) (g₁ : U₁ ⟶ V₁)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:460]: `reassoc` could be useful here also.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean [hunk 4]
```diff
@@ -483,156 +474,68 @@ theorem tensor_μ_natural {X₁ X₂ Y₁ Y₂ U₁ U₂ V₁ V₂ : C} (f₁ :
...
 @[reassoc]
 theorem tensor_μ_natural_right (Z₁ Z₂ : C) {X₁ X₂ Y₁ Y₂ : C} (f₁ : X₁ ⟶ Y₁) (f₂ : X₂ ⟶ Y₂) :
-    (𝟙 (Z₁ ⊗ Z₂) ⊗ (f₁ ⊗ f₂)) ≫ tensor_μ C (Z₁, Z₂) (Y₁, Y₂) =
-      tensor_μ C (Z₁, Z₂) (X₁, X₂) ≫ ((𝟙 Z₁ ⊗ f₁) ⊗ (𝟙 Z₂ ⊗ f₂)) := by
-  convert tensor_μ_natural C (𝟙 Z₁) (𝟙 Z₂) f₁ f₂ using 1; simp
+    (Z₁ ⊗ Z₂) ◁ (f₁ ⊗ f₂) ≫ tensor_μ C (Z₁, Z₂) (Y₁, Y₂) =
+      tensor_μ C (Z₁, Z₂) (X₁, X₂) ≫ (Z₁ ◁ f₁ ⊗ Z₂ ◁ f₂) := by
+  convert tensor_μ_natural C (𝟙 Z₁) (𝟙 Z₂) f₁ f₂ using 1 <;> simp
 
 theorem tensor_left_unitality (X₁ X₂ : C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided.lean:491]: `reassoc` should also be added to lemmas `tensor_left_unitality`, `tensor_right_unitality`, `tensor_associativity`, `leftUnitor_monoidal`, `rightUnitor_monoidal`, `associator_monoidal`.

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 5]
```diff
@@ -463,17 +463,27 @@ theorem associator_inv_naturality_right (X Y : C) {Z Z' : C} (f : Z ⟶ Z') :
...
+theorem leftUnitor_naturality' {X Y : C} (f : X ⟶ Y) :
+    (𝟙_ C) ◁ f ≫ (λ_ Y).hom = (λ_ X).hom ≫ f := by
+  simp
+
 @[reassoc]
 theorem leftUnitor_inv_naturality' {X Y : C} (f : X ⟶ Y) :
-    f ≫ (λ_ Y).inv = (λ_ X).inv ≫ (_ ◁ f) := by simp
+    f ≫ (λ_ Y).inv = (λ_ X).inv ≫ _ ◁ f := by simp
 
 theorem id_whiskerLeft_symm {X X' : C} (f : X ⟶ X') :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Category.lean:475]: `reassoc` can be added to `id_whiskerLeft_symm`, `whiskerRight_id_symm`

**Review by joelriou — APPROVED** [review]
Thanks for this great work! Apart from the `reassoc` attribute which shoud be added to some lemmas, this looks good to me.

File: Mathlib/CategoryTheory/Monoidal/Braided.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Monoidal/Braided.lean:491]: Adding the line `attribute [reassoc] tensor_associativity associator_monoidal` after the declarations seem to work without increasing `maxHeartbeats`.

**Comment by joelriou** [comment]
Thanks!

bors merge
